US08049015B2
Ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid tert-butyl ester and (5-bromo-pyridin-3-yl)-acetic acid ethyl ester were reacted as described in Example 8, Step 4 to provide (5-{2-[(N-tert-butoxycarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid ethyl ester.

reactant | Ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)CC)=O | C21H31BF3NO4
reactant | (5-bromo-pyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)Br)=O | C9H10BrNO2
product | (5-{2-[(N-tert-butoxycarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OC(C)(C)C)=O | C24H29F3N2O4
